US08461189B2
A solution of pyridin-3-ylmethyl{[4-(aminocarbonyl)phenyl]methyl}carbamate (0.2 g, 0.70 mmol), 1,1-dimethylethyl(2,6-dichloropyridin-3-yl)carbamate (0.18 g, 0.70 mmol), Pd2(dba)3 (32 mg, 0.035 mmol), Xantphos (41 mg, 0.07 mmol) and K3PO4 (0.45 g, 2.1 mmol) in dioxane (3 mL) was degassed with nitrogen, sealed and heated to 100° C. for 14 hours. The reaction was diluted with ethyl acetate (50 mL), filtered through Celite and evaporated in vacuo. Purification by flash chromatography (0-3% methanol/DCM) gave pyridin-3-ylmethyl{[4-({[6-chloro-3-({[(1,1-dimethylethyl)oxy]carbonyl}amino)pyridin-2-yl]amino}carbonyl)phenyl]methyl}carbamate. MS: cal'd 512 (MH+), exp 512 (MH+).

reactant | pyridin-3-ylmethyl{[4-(aminocarbonyl)phenyl]methyl}carbamate | 0.70 mmol, 0.2 g | N1=CC(=CC=C1)COC(NCC1=CC=C(C=C1)C(=O)N)=O | C15H15N3O3
reactant | 1,1-dimethylethyl(2,6-dichloropyridin-3-yl)carbamate | 0.70 mmol, 0.18 g | CC(C)(C)N(C([O-])=O)C=1C(=NC(=CC1)Cl)Cl
reactant | Xantphos | 0.07 mmol, 41 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | K3PO4 | 2.1 mmol, 0.45 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd2(dba)3 | 0.035 mmol, 32 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | pyridin-3-ylmethyl{[4-({[6-chloro-3-({[(1,1-dimethylethyl)oxy]carbonyl}amino)pyridin-2-yl]amino}carbonyl)phenyl]methyl}carbamate | N1=CC(=CC=C1)COC(NCC1=CC=C(C=C1)C(=O)NC1=NC(=CC=C1NC(=O)OC(C)(C)C)Cl)=O | C25H26ClN5O5
